US07625932B2
Preparation of 4-(2-Fluoro-phenoxy)-phenylamine
Add together 4-(2-fluoro-phenoxy)-nitrobenzene (3.18 g, 13.6 mmol) and Tin(II) chloride dihydrate (12.89 g, 5 Eq.) in absolute ethanol (20 mL) and heat to reflux while stirring under a nitrogen atmosphere for 3 hours. Cool to room temperature and dilute with ethyl acetate (50 mL). Wash this organic layer once with water, dry over potassium carbonate, filter, and concentrate under reduced vacuum to give 2.90 g as a dark oil. Purify the material by silica gel chromatography (Prep. 2000) eluting with methylene chloride to provide 1.74 g of the title compound as a tan solid. Mass spectrum (m/e): 204.2 (M*+1): (Bruker 300) 1H NMR (CDCl3) δ 7.08-7.15 (2H, m), 6.95-7.02 (3H, m), 6.81-6.92 (4H, m), 6.63-6.67 (2H, d).

reactant | 4-(2-fluoro-phenoxy)-nitrobenzene | 13.6 mmol, 3.18 g | FC1=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C12H8FNO3
reactant | Tin(II) chloride dihydrate | 12.89 g, 5 Eq. | O.O.[Sn](Cl)Cl
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-Fluoro-phenoxy)-phenylamine | 1.74 g | FC1=C(OC2=CC=C(C=C2)N)C=CC=C1 | C12H10FNO
